US05629293
e) (S)-2-(9-Fluorenylmethyloxycarbonylamino)-6-azidohexanoic acid
11.6 ml 1N NaHCO3 solution (11.6 mmol) and a solution of 3.00 g 9-fluorenyloxycarbonylchloride (11.6 mmol) in 12 ml dioxane were added to the crude solution of (S)-2-amino-6-azidohexanoic acid (7.73 mmol) and stirring under argon was continued overnight. The solution was acidified to pH 2 by addition of a KHSO4 -solution, extracted with ethyl acetate, dried (MgSO4), and the residue was purified by flash chromatography (hexane/ethyl acetate/acetic acid 7/3/0.5).

reactant | NaHCO3 | 11.6 mmol, 1N, 11.6 ml | C(=O)(O)[O-].[Na+]
reactant | 9-fluorenyloxycarbonylchloride | 11.6 mmol, 3.00 g | C1=CC=CC=2C3=CC=CC=C3C(C12)OC(=O)Cl | C14H9ClO2
reactant | (S)-2-amino-6-azidohexanoic acid | 7.73 mmol | N[C@H](C(=O)O)CCCCN=[N+]=[N-] | C6H12N4O2
reactant | KHSO4 | OS(=O)(=O)[O-].[K+]
reactant | dioxane | 12 ml | O1CCOCC1 | C4H8O2
product | (S)-2-(9-Fluorenylmethyloxycarbonylamino)-6-azidohexanoic acid | C1=CC=CC=2C3=CC=CC=C3C(C12)COC(=O)N[C@H](C(=O)O)CCCCN=[N+]=[N-] | C21H22N4O4
